US09079878B2
4-({4-[4-(Trifluoromethoxy)phenyl]-1H-imidazol-2-yl}methyl)tetrahydro-2H-pyran-4-amine
To tert-butyl [4-({4-[4-(trifluoromethoxy)phenyl]-1H-imidazol-2-yl}methyl)tetrahydro-2H-pyran-4-yl]carbamate (Preparation 4, 0.166 g, 0.376 mmol) was added 4M hydrogen chloride in 1,4-dioxane (3 mL) and the reaction left to stir at room temperature for 18 hours before concentrating in vacuo. The residue was purified by preparative HPLC conditions (A-HPLC) to afford the title compound.

reactant | tert-butyl [4-({4-[4-(trifluoromethoxy)phenyl]-1H-imidazol-2-yl}methyl)tetrahydro-2H-pyran-4-yl]carbamate | 0.376 mmol, 0.166 g | FC(OC1=CC=C(C=C1)C=1N=C(NC1)CC1(CCOCC1)NC(OC(C)(C)C)=O)(F)F | C21H26F3N3O4
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-({4-[4-(Trifluoromethoxy)phenyl]-1H-imidazol-2-yl}methyl)tetrahydro-2H-pyran-4-amine | FC(OC1=CC=C(C=C1)C=1N=C(NC1)CC1(CCOCC1)N)(F)F | C16H18F3N3O2
